US05100897
4-Aminomethyl-2'-t-butoxycarbonylbiphenyl
The title compound is prepared similarly to 4-aminomethyl-2'-cyanobiphenyl except 4-bromomethyl-2't-butoxycarbonylbiphenyl is used in place of 4-aminomethyl-2'-cyanobiphenyl.

reactant | 4-aminomethyl-2'-cyanobiphenyl | NCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C14H12N2
reactant | 4-bromomethyl-2't-butoxycarbonylbiphenyl | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC(C)(C)C | C18H19BrO2
product | 4-Aminomethyl-2'-t-butoxycarbonylbiphenyl | NCC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC(C)(C)C | C18H21NO2
